US07470679B2
4-(2,2,4-Trioxo-1,2,3,4-tetrahydro-2,1-benzothiazin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
1-Benzyl-2,2-dioxo-2,3-dihydro-1H-2,1-benzothiazin-4-one (1.51 g, 5.26 mmol) was dissolved in pyridine (50 mL). N-tert-Butoxycarbonyl-4-piperidinone (1.24 g, 6.33 mmol) was added to the mixture followed by piperidine (110 μL, 1.11 mmol). Molecular sieves were added to the mixture. Reaction stirred at room temperature for 40 hours. Reaction mixture was filtered over celite. Filtrate was concentrated in vacuo. Residue was purified by silica gel chromatography. The major component was isolated and the fractions concentrated in vacuo. Residue was dissolved in methanol (50 mL). A catalytic amount of 50% wet 10% palladium on carbon was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 55 psi of hydrogen gas. Reaction shook at room temperature for 2 hours. Reaction mixture was filtered over celite. Fresh catalyst was added to the filtrate. Reaction vessel was placed on a Parr apparatus and charged with 55 psi of hydrogen gas. Reaction shook at room temperature for 1 hour. Mixture was filtered over celite. A third batch of fresh catalyst was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 55 psi of hydrogen gas. Reaction shook at room temperature for 7.5 hours. Catalyst was filtered off. Filtrate was concentrated in vacuo. Silica gel chromatography afforded the title compound as pale yellow solid in 24% yield. MS m/e (M−H)−=379.1.

reactant | 1-Benzyl-2,2-dioxo-2,3-dihydro-1H-2,1-benzothiazin-4-one | 5.26 mmol, 1.51 g | C(C1=CC=CC=C1)N1S(CC(C2=C1C=CC=C2)=O)(=O)=O | C15H13NO3S
reactant | N-tert-Butoxycarbonyl-4-piperidinone | 6.33 mmol, 1.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | piperidine | 1.11 mmol, 110 μL | N1CCCCC1 | C5H11N
reactant | hydrogen | [H][H] | H2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2,2,4-Trioxo-1,2,3,4-tetrahydro-2,1-benzothiazin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 24% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C18H24N2O5S
